US07820823B2
4-[4-{(5S)-5-Aminomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenylamino]-piperidine-1-carboxylic Acid Benzyl Ester
A solution of 2.51 g (5.35 mmol) 4-[4-{(5R)-5-azidomethyl2-oxo-oxazolidin-3-yl}-2-fluoro-phenylamino]-piperidine-1-carboxylic acid benzyl ester, 1.54 g (5.88 mmol) triphenylphosphine and 964 μl (53.5 mmol) water in 30 ml THF was stirred at 50° C. for 16 h.

reactant | 4-[4-{(5R)-5-azidomethyl2-oxo-oxazolidin-3-yl}-2-fluoro-phenylamino]-piperidine-1-carboxylic acid benzyl ester | 5.35 mmol, 2.51 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C23H25FN6O4
reactant | triphenylphosphine | 5.88 mmol, 1.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 53.5 mmol, 964 μl | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-[4-{(5S)-5-Aminomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenylamino]-piperidine-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F | C23H27FN4O4
